* Z:\home\mikkel\repoes\ESD4\project\integrationHell.asc
Q1 P001 N006 N011 0 BC337-25
Q2 N004 N007 N011 0 BC337-25
R1 N011 N015 500
R2 N015 0 3k
C1 N015 0 440µF
R4 vcc N006 309k
R5 N006 0 110k
R6 N007 0 110k
R7 vcc N007 309k
C2 N006 N005 47µF
C3 N008 N007 47µF
V2 N003 0 SINE(0 6 218000)
V3 NC_01 0 SINE(0 6 215000)
C4 MixOut N004 47µF
R12 N008 0 2k
R13 RF-Out N008 100k
R14 vcc N004 3k
R15 N005 0 45k
R16 LO-Out N005 100k
L1 MixOut N001 86m
L2 N001 N002 68m
C7 N001 0 3.9n
C8 N002 0 1.5n
L3 N002 5order 15m
R3 5order 0 5K
D1 MixOut 0 1N4148
C9 MixOut 0 39n
C10 FilterOut 5order 47µF
RB1 vcc N019 309k
RC1 vcc LO-Collector 6k98
RE1 N021 0 4k75
RB2 N019 0 110k
C6 N021 0 10µ
V4 vcc 0 12
Q3 LO-Collector N019 N021 0 BC337-25
R8 N019 N018 15k
C12 LO-Collector N012 1µ
C13 N013 N018 1µ
RB3 vcc B 309k
RC2 vcc RF-Collector 6.98k
RE2 N020 0 4k75
RB4 B 0 110k
C16 N020 0 10µ
Q4 RF-Collector B N020 0 BC337-25
R11 B N017 15k
L7 N010 N009 3.3m
C18 N010 0 68p
C19 N009 0 470p
CAnt1 0 N010 2pF
C20 N010 N017 1µ
C21 RF-Collector N009 1µ
L8 N009 N010 3.3m
L9 N013 N012 3.3m
C24 N013 0 68p
C25 N012 0 470p
L10 N012 N013 3.3m
R17 vcc P001 3k
XU3 LO-Out N016 LO-Out opamp Aol=100K GBW=10Meg
C15 N016 N013 1µF
XU4 RF-Out N014 RF-Out opamp Aol=100K GBW=10Meg
C23 N014 N010 1µF
.model D D
.lib C:\users\mikkel\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\mikkel\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 .5 0 0.0001
.lib opamp.sub
.backanno
.end
