* T:\Repoes\AAU\ESD4\Project\integrationHell.asc
Q1 P001 N010 N013 0 BC337-25
Q2 N001 N011 N013 0 BC337-25
RE1-1 N013 N014 150
RE2-1 N014 0 3k
CE N014 0 440µF
RB1_lo vcc N010 220k
RB2_lo N010 0 220k
R6 N011 0 220k
RB1_pitch vcc N011 220k
CB_lo N010 LO-Out 47µF
CB_pitch RF-Out N011 47µF
V2 LO-Out2 0 SINE(0 1.25 218000)
V3 RF-Out2 0 SINE(0 0.5 215000)
CC MixOut N001 47µF
RC_pitch vcc N001 3k
L1 MixOut N002 83m
L2 N002 N003 68m
C7 N002 0 3.9n
C8 N003 0 1.5n
L3 N003 5order 15m
R3 5order 0 7.5K
D1 MixOut 0 1N4148
C9 MixOut 0 39n
C10 FilterOut 5order 47µF
RB1 vcc N009 309k
RC1 vcc LO-Collector 6k98
RE1 N012 0 4k75
RB2 N009 0 110k
C6 N012 0 10µ
V4 vcc 0 12
Q3 LO-Collector N009 N012 0 BC337-25
R8 N009 N008 15k
C12 LO-Collector N005 1µ
C13 N006 N008 1µ
RB3 vcc B 309k
RC2 vcc RF-Collector 6.98k
RE2 N023 0 4k75
RB4 B 0 110k
C16 N023 0 10µ
Q4 RF-Collector B N023 0 BC337-25
R11 B N022 15k
L7 N020 N019 3.3m
C18 N020 0 68p
C19 N019 0 270p
CAnt1 N020 0 23pF
C20 N020 N022 1µ
C21 RF-Collector N019 1µ
L8 N019 N020 3.3m
L9 N006 N005 3.3m
C24 N006 0 68p
C25 N005 0 470p
L10 N005 N006 3.3m
RC_lo vcc P001 3k
XU3 N004 0 LO-Out opamp Aol=100K GBW=10Meg
XU4 N007 N006 N007 opamp Aol=100K GBW=10Meg
R10 LO-Out N004 33k2
R9 N004 N007 100k
XU1 N018 0 RF-Out opamp Aol=100K GBW=10Meg
XU2 N021 N020 N021 opamp Aol=100K GBW=10Meg
R15 RF-Out N018 1k82
R16 N018 N021 100k
RB5 vcc N015 220K
RC3 vcc Collector 4.75k
RE3 N017 0 1.85K
RB6 N015 0 30K
C5 Collector Out 47µ
R12 Out 0 10Meg
Q5 Collector N015 N016 0 BC337-25
C14 N017 0 440µ
R13 N016 N017 150
C15 N005 0 180p
C1 N015 FilterOut 47µF
.model D D
.lib C:\Users\mikkel\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\mikkel\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 .5 0.2 0.0001
.lib opamp.sub
* Local oscillator
* RF oscillator
* Mixer
* LP filter
* Pre-Amp
* <-- 10k ohm potentiometer
* 68 + 15
.four 2372 5 -1 V(Out)
.backanno
.end
